US05733913
6-o-Tolyl-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 2-methylbenzyl cyanide and 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 300°-302° C.

reactant | 2-methylbenzyl cyanide | CC1=C(CC#N)C=CC=C1 | C9H9N
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-o-Tolyl-pyrido[2,3-d]pyrimidine-2,7-diamine | C1(=C(C=CC=C1)C1=CC2=C(N=C(N=C2)N)N=C1N)C | C14H13N5
